US07872014B2
A solution of methyl 7-amino-2,3-dihydro-1,4-benzodioxine-5-carboxylate (4.89 g, 23.3 mmol) in ethylene glycol dimethyl ether (15 mL) was cooled to −5° C. and then slowly added boron trifluoride diethyl etherate (3.85 mL, 30.3 mmol) followed by tert-butyl nitrite (3.05 mL, 25.6 mmol). The resulting gray suspension was allowed to warm to 0° C. and stirred for 1 h, at which time it was filtered and rinsed with ethyl acetate to give 6.24 g (93%) of difluoroboranylium {8-[(methyloxy)carbonyl]-2,3-dihydro-1,4-benzodioxin-6-yl}diazenide as a gray powder: 1H NMR (400 MHz, d6-DMSO): 8.73 (br s, 1H), 8.32 (br s, 1H), 4.64 (br m, 2H), 4.47 (br m, 2H), 3.88 (s, 3H).

reactant | methyl 7-amino-2,3-dihydro-1,4-benzodioxine-5-carboxylate | 23.3 mmol, 4.89 g | NC=1C=C(C2=C(OCCO2)C1)C(=O)OC | C10H11NO4
reactant | boron trifluoride diethyl etherate | 30.3 mmol, 3.85 mL | B(F)(F)F.CCOCC
reactant | tert-butyl nitrite | 25.6 mmol, 3.05 mL | N(=O)OC(C)(C)C | C4H9NO2
solvent | ethylene glycol dimethyl ether | 15 mL | COCCOC | C4H10O2
product | difluoroboranylium {8-[(methyloxy)carbonyl]-2,3-dihydro-1,4-benzodioxin-6-yl}diazenide | 6.24 g, 93% | COC(=O)C1=CC(=CC2=C1OCCO2)N=[N-].F[B+]F | InChI=1S/C10H9N2O4.BF2/c1-14-10(13)7-4-6(12-11)5-8-9(7)16-3-2-15-8;2-1-3/h4-5H,2-3H2,1H3;/q-1;+1
